US03933497
To a stirred solution of 8-azido-1-naphthylamine (1.84 g., 0.01 mole) in 70 ml. of pyridine was added a solution of acetyl chloride (0.784 g., 0.01 mole) in 10 ml. of ether. The mixture was warmed on a steam bath for 30 minutes. The solvents were removed in vacuo and the residue washed with water and dried. Recrystallization from hexane provided 1-acetamido-8-azidonaphthalene in the form of colorless, long needles having a yield of 2.1 g., 93 percent, m.p. 148°C.-149°C., Lit. m.p. 147°C.-148°C. and an analysis of: Calcd. for C12H10N4C: C, 63.70; H, 4.46; N, 24.77 Found: C, 63.90; H, 4.14; N, 24.66

reactant | 8-azido-1-naphthylamine | 0.01 mole, 1.84 g | N(=[N+]=[N-])C=1C=CC=C2C=CC=C(C12)N | C10H8N4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.01 mole, 0.784 g | C(C)(=O)Cl | C2H3ClO
solvent | ether | CCOCC | C4H10O
product | 1-acetamido-8-azidonaphthalene | C(C)(=O)NC1=CC=CC2=CC=CC(=C12)N=[N+]=[N-] | C12H10N4O
